US06358992B1
Methyl 3-acetyl-1-(2-chlorobenzyl)-2-ethylindole-6-carboxylate (170 mg) was prepared from methyl 3-acetyl-2-ethylindole-6-carboxylate (100 mg) and 2-chlorobenzyl bromide (0.06 ml) in a similar manner to that of Example 1.

reactant | methyl 3-acetyl-2-ethylindole-6-carboxylate | 100 mg | C(C)(=O)C1=C(NC2=CC(=CC=C12)C(=O)OC)CC | C14H15NO3
reactant | 2-chlorobenzyl bromide | 0.06 ml | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
product | Methyl 3-acetyl-1-(2-chlorobenzyl)-2-ethylindole-6-carboxylate | 170 mg | C(C)(=O)C1=C(N(C2=CC(=CC=C12)C(=O)OC)CC1=C(C=CC=C1)Cl)CC | C21H20ClNO3
